US04548926
[N-Benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl]-[3-(1-naphthyl)-L-alanyl]-L-histidyl-L-leucinol
70 mg. (0.2 mmole) of N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanine and 40 mg. (0.22 mmole) of N-hydroxy-5-norbornene-2,3-dicarboximide were dissolved in 2 ml. of methylene chloride. The solution was cooled to 0° C., and there were then added 50 mg. (0.24 mmole) of dichlorohexylcarbodiimide; the mixture was stirred at 0° C. for 1 hour. The resulting solution was added to a cooled solution prepared from 5 ml. of a dimethylformamide solution of 123 mg. (0.2 ml.) of 3-(1-naphthyl)-L-alanyl-L-histidyl-L-leucinol dihydrobromide by neutralization with 20 mg. (0.2 mmole) of N-methylmorpholine. The mixture was stirred overnight at room temperature. The dicyclohexylurea precipitated was removed by filtration, and the filtrate was concentrated by evaporation under reduced pressure. To the residue was added a 5% w/v aqueous solution of sodium bicarbonate, and the oily substance thus formed was extracted with ethyl acetate. The organic layer was washed successively with water and with a saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulphate and concentrated by evaporation under reduced pressure. When a small amount of water was added to the residual syrup, it solidified and was separated by filtration. This product (143 mg) was then purified by silica gel column chromatography (eluent: chloroform/methanol 10:1 by volume) to afford 55 mg. of the desired compound as a white powdery solid, melting at 199°-200° C.; [α]24 -81.6° (C=0.5, methanol).

reactant | N-benzyloxycarbonyl-3-(1-naphthyl)-L-alanine | 0.2 mmole | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)O | C21H19NO4
reactant | N-hydroxy-5-norbornene-2,3-dicarboximide | 0.22 mmole | ON1C(=O)C2C3C=CC(C2C1=O)C3 | C9H9NO3
reactant | dichlorohexylcarbodiimide | 0.24 mmole | ClC(CCCCCN=C=N)Cl | C7H12Cl2N2
reactant | 3-(1-naphthyl)-L-alanyl-L-histidyl-L-leucinol dihydrobromide | 0.2 ml | Br.Br.C1(=CC=CC2=CC=CC=C12)C[C@H](N)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO
reactant | N-methylmorpholine | 0.2 mmole | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | [N-Benzyloxycarbonyl-3-(1-naphthyl)-L-alanyl]-[3-(1-naphthyl)-L-alanyl]-L-histidyl-L-leucinol | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC2=CC=CC=C12)C(=O)N([C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)CO)C([C@@H](N)CC1=CC=CC2=CC=CC=C12)=O | C46H50N6O6
